US05126461
Titanium tetrachloride (8.0 cm3, 70 mmol) was added slowly under nitrogen to a stirred solution of 2,5-diethylthiophene (6.0 g, 43 mmol) in dichloromethane (25 ml) at 0° C. After 10 min, 1,1-dichloromethyl methyl ether (5.0 g, 43 mmol) was added dropwise causing a vigorous reaction and the evolution of hydrogen chloride The dark mixture was stirred at 0° C. for 30 min followed by 1 h at 20° C. and then poured onto ice water (100 ml). The organic phase was separated, the aqueous solution was extracted with dichloromethane (3×20ml) and the combined organic extracts were washed with 10% aqueous sodium hydroxide (2×50 ml) and dried. Removal of the solvent gave a brown oil which was distilled at reduced pressure to yield 2,5-diethyl-3-thiophenecarboxaldehyde (4.1 g, 57%) as a colourless oil which darkened rapidly, b.p. 72° C. at 0.3 mmHg (Found M+ :168.0620. C9H12SO requires M, 168.0609) which showed νmax (film) 1195m, 1387m, 1457m, 1676s, 2875m, 2933m and 2970s cm-1 ; δH (CCl4) 1.28 (3H, t, J 8 Hz) 1.32 (3H, t, J 8 Hz), 2.75 (2H, q, J 8 Hz), 3.13 (2H, q, J 8 Hz), 6.93 (1H, s), 9.85 (1H, s); m/z 168 (M+) 153 (M+ -CH3), 139 (M+ -C2H5).

reactant | 2,5-diethylthiophene | 43 mmol, 6.0 g | C(C)C=1SC(=CC1)CC | C8H12S
reactant | 1,1-dichloromethyl methyl ether | 43 mmol, 5.0 g | COC(Cl)Cl | C2H4Cl2O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 70 mmol, 8.0 cm3 | [Ti](Cl)(Cl)(Cl)Cl
product | 2,5-diethyl-3-thiophenecarboxaldehyde | 4.1 g, 57% | C(C)C=1SC(=CC1C=O)CC | C9H12OS
